Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:6]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([H:3])([H:4])[C:5]([H:7])[H:8],4.44093526192
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12].[O:1],7.99100440829
[H:1][C:2][O:3][C:4][C:6]([H:7])[O:8][C:9]([H:10])[H:11].[H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11],-5.25429934471
[C:8]([H:9])[O:10][H:11].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],-3.03106315497
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[O:7],1.41784806038
[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-6.51306571602
[C:4]([H:5])(=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.4522372000000003
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:12]([H:13])([H:14])[H:15],4.841055139
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[C:5]([H:6])([H:7])=[C:8][H:9].[O:1]=[C:2]([H:3])[O:4],1.08978967578
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[O:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15],-0.6939736840899999
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9].[O:10]=[C:11]=[C:12]([H:13])[H:14],-2.73329957512
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8],4.539891058469999
[C:1]#[C:2][C:3]([H:4])[C:5][O:7][H:8].[O:6]>>[C:1]#[C:2][C:3]([H:4])[C:5](=[O:6])[O:7][H:8],-7.22282997968
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:8][C:9]([H:10])[H:11].[H:7]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11],-4.5724546657800005
[C:7]([H:8])(=[C:13]([H:14])[H:15])[H:16].[H:1][C:2]([H:3])([C:4]([H:5])=[C:9]=[C:10]([H:11])[H:12])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],1.48458232775
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.7763371428
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],3.0131169466100003
[C:10]([H:11])[H:12].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-7.85554716753
[C:5]([H:6])[H:7].[H:1][O:2][C:3]([H:4])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.97286853748
[C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.11042051763
[H:1][C:2]=[C:3]([H:4])[C:9]([H:10])([H:11])[O:12][H:13].[O:5]=[C:6]([H:7])[H:8]>>[H:1][C:2][C@@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],1.97238998097
[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-9.04521284
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2],7.590220519730001
[O:12][H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.7529196396
[H:1][C:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:1][C:2][C:3]([H:4])=[C:6][H:7].[H:5],0.466962647847
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[C:10]([H:11])([H:12])[H:13].[O:8][H:9]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-5.01804071099
[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][H:3].[O:4]=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],0.27630430134100004
[C:3]([H:4])[O:5][C:6]#[C:7][H:8].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8],-2.40982904149
